US09108936B2
To a stirred solution of 4-bromo-2-methoxy-6-methyl-benzoic acid (1.2 g, 4.89 mmol) in dichloromethane (10 ml) are added oxalyl chloride (0.52 ml, 5.86 mmol) and dimethylformamide (catalytic amount) at 0° C. The reaction mixture is stirred for 30 min at RT. Excess oxalyl chloride is distilled off under nitrogen. The residue is dissolved in dichloromethane (10 ml), cooled to 0° C. followed by the addition of triethylamine (1.7 ml, 12.2 mmol) and 4-chlorobenzylamine (0.71 ml, 5.86 mmol). The reaction mixture is stirred for 1 h at RT. After completion of the reaction (monitored by TLC) the mixture is diluted with water (50 ml) and extracted with dichloromethane (3×50 ml). The organic layer is washed with water (50 ml), brine (50 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 15% ethyl acetate/hexane) to yield 4-bromo-N-[(4-chlorophenyl)-methyl]-2-methoxy-6-methyl-benzamide (1.67 g, 4.53 mmol, 92%).

reactant | 4-bromo-2-methoxy-6-methyl-benzoic acid | 4.89 mmol, 1.2 g | BrC1=CC(=C(C(=O)O)C(=C1)C)OC | C9H9BrO3
reactant | oxalyl chloride | 5.86 mmol, 0.52 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 12.2 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzylamine | 5.86 mmol, 0.71 ml | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-bromo-N-[(4-chlorophenyl)-methyl]-2-methoxy-6-methyl-benzamide | 4.53 mmol, 1.67 g, 92% | BrC1=CC(=C(C(=O)NCC2=CC=C(C=C2)Cl)C(=C1)C)OC | C16H15BrClNO2
